US07378525B2
4-[4-(Cyclohexyl-methyl-carbamoyl)-naphthalene-1-sulfonylamino]-piperidine-1-carboxylic acid dimethylamide (F-28)
The title compound was prepared according to the general procedure in Scheme 11, substituting 4-(piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid cyclohexyl-methyl-amide for 4-(piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid cyclohexylamide, and dimethylcarbamyl chloride for ethyl chloroformate. 1H NMR (300 MHz, CDCl3) δ 8.63 (d, 1H), 8.28 (d, 1H), 7.87 (m, 1H), 7.62 (m, 2H), 7.21 (m, 1H), 5.35 (m, 1H), 5.27 (d, 1H), 4.74 (m, 1H), 3.48 (m, 1H), 3.35 (m, 1H), 3.27 (m, 1H), 3.05 (m, 1H), 2.72 (s, 6H), 2.60 (s, 3H), 1.83 (m, 4H), 1.50 (m, 8H), 0.82 (m, 2H); LC/MS m/z 501 (M+H)+.

reactant | 4-(piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid cyclohexylamide | C1(CCCCC1)NC(=O)C1=CC=C(C2=CC=CC=C12)S(NC1CCNCC1)(=O)=O | C22H29N3O3S
reactant | dimethylcarbamyl chloride | CN(C(=O)Cl)C | C3H6ClNO
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 4-[4-(Cyclohexyl-methyl-carbamoyl)-naphthalene-1-sulfonylamino]-piperidine-1-carboxylic acid dimethylamide | CN(C(=O)N1CCC(CC1)NS(=O)(=O)C1=CC=C(C2=CC=CC=C12)C(N(C)C1CCCCC1)=O)C | C26H36N4O4S
